### ISSUE TITLE
Printing of notation with @

### ISSUE THREAD

**Issue by fpvandoorn** [leanprover-community/lean#333]
### Description

Printing of notation doesn't seem to work when the declaration used `@`.

### Steps to Reproduce

```lean
-- uncomment one

notation A `⁻` := set.compl A -- prints & parses correctly
-- notation A `⁻` := @set.compl _ A -- parses correctly, doesn't print
-- notation A `⁻` := @set.compl A -- parses incorrectly (as expected), but still prints!

example (X : Type) (A : set X) : A ∪ A.compl = set.univ := by {  }
example (X : Type) (A : set X) : A ∪ (A⁻) = set.univ := by {  }
```

The original question was to get the following notation print correctly. 
```lean
notation X `\` A := @has_neg.neg (set X) _ A
example (X : Type) (A : set X) : A ∪ (X \ A) = set.univ := by {  }
```
This bug probably applies, but maybe there is also something else going on because `\` is overloaded. (in this example the goal is printed as `A ∪ (λ (x_1 : Type), has_neg.neg) X A = set.univ`, but if I replace `\` by `\\` everywhere, the goal is printed as `A ∪ -A = set.univ`)

### Additional Information

https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/Notation.20with.20implicit.20arguments.20.3F
